US06376672B1
To an ice-cold solution of 0.36 g (2.06 mmol) of 1-chloromethyl-4-fluoro-2-methoxy-benzene and 0.195 g (4.12 mmol) of 1-chloro-3-propanol in 3 ml of dry N,N-dimethyl-formamide were added 92.5 mg (3.09 mmol) of sodium hydride (80% dispersion in refined oil) in 3 portions at one hour intervals. After complete addition the stirring was continued for 2 hours at room temperature, then 2 ml of an saturated aqueous sodium hydrogencarbonate solution were added and the reaction mixture evaporated under reduced pressure. Subsequently, the residue was treated with a mixture of dichloromethane and water, the organic phase was separated and dried over sodium sulfate. Finally, the solvent was evaporated under reduced pressure and the crude product was purified by chromatography on silica gel with a 1:1 mixture of hexane and dichloromethane as the eluent. There were obtained 0.29 g (60% of theory) of 1-(3-chloro-propoxymethyl)-4-fluoro-2-methoxy-benzene as a colorless liquid; MS: 232 (M)+.

reactant | 1-chloromethyl-4-fluoro-2-methoxy-benzene | 2.06 mmol, 0.36 g | ClCC1=C(C=C(C=C1)F)OC | C8H8ClFO
reactant | 1-chloro-3-propanol | 4.12 mmol, 0.195 g | ClCCCO | C3H7ClO
reactant | sodium hydride | 3.09 mmol, 92.5 mg | [H-].[Na+]
reactant | sodium hydrogencarbonate | 2 ml | C(O)([O-])=O.[Na+]
solvent | N,N-dimethyl-formamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-(3-chloro-propoxymethyl)-4-fluoro-2-methoxy-benzene | 0.29 g, 60% | ClCCCOCC1=C(C=C(C=C1)F)OC | C11H14ClFO2
